US08859574B2
To 4-(2,5-dimethyl-4-nitrophenyl)-1-(4-methoxybenzyl)piperidin-2-one (63 mg, 0.17 mmol) in MeOH (10 mL) was added 10% w/w Pd/C (6 mg), the mixture was degassed and stirred under H2 at room temperature for 14 hr. After removing the catalyst by filtration, the filtrate was concentrated to provide 4-(4-amino-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one as a pale yellowish oil. ESMS m/z 339.2 (M+H+).

reactant | 4-(2,5-dimethyl-4-nitrophenyl)-1-(4-methoxybenzyl)piperidin-2-one | 0.17 mmol, 63 mg | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C1CC(N(CC1)CC1=CC=C(C=C1)OC)=O | C21H24N2O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 6 mg | [Pd] | Pd
product | 4-(4-amino-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one | NC1=CC(=C(C=C1C)C1CC(N(CC1)CC1=CC=C(C=C1)OC)=O)C | C21H26N2O2
